US06664406B1
z,z,z-6,9,12-Octadecatrienoic acid (available from Sigma Chemicals) (0.180 mol, 50.0 g), propane-1,3-diol (0.086 mol, 6.5 g) and hypophosphorous acid (0.2 g) was heated with stirring to 160° C. under nitrogen. After 6 h, TLC (80:18:2 petroleum ether-ethyl ether-acetic acid) indicated that the reaction had gone to completion (Rf:0.56). The mixture was cooled down to room temperature and petroleum ether (700 mL) was added. The resulting solution was washed with saturated sodium bicarbonate (3×70 mL) and saturated sodium chloride (3×70 mL). It was then dried over anhydrous sodium sulphate and concentrated to dryness. Residual mono-ester and fatty acid were removed by distillation in vacuo (180° C., 10−2 mbar). The resulting oil was dissolved in petroleum ether to make up a 33% solution and was passed down a silica column. Hexane was finally removed to yield 1,3-di-(z,z,z-6,9,12-octadecatrienoyloxy)propane as a colourless oil.

reactant | z,z,z-6,9,12-Octadecatrienoic acid | 0.180 mol, 50.0 g | C(CCCC\C=C/C\C=C/C\C=C/CCCCC)(=O)O | C18H30O2
reactant | propane-1,3-diol | 0.086 mol, 6.5 g | C(CCO)O | C3H8O2
reactant | hypophosphorous acid | 0.2 g | [PH2](=O)O | H3O2P
product | 1,3-di-(z,z,z-6,9,12-octadecatrienoyloxy)propane | C(CCCC\C=C/C\C=C/C\C=C/CCCCC)(=O)OCCCOC(CCCC\C=C/C\C=C/C\C=C/CCCCC)=O | C39H64O4
